US07576089B2
1-(5-Pyrimidin-2-ylpyridin-2-yl)-4-{[(3S)-1-({1-[6-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}carbonyl)pyrrolidin-3-yl]amino}cyclohexanol
A solution of (3S)-1-({1-[6-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}carbonyl)pyrrolidin-3-amine (40 mg, 0.1 mmol), 4-hydroxy-4-(5-pyrimidin-2-ylpyridin-2-yl)cyclohexanone (47 mg, 0.18 mmol), sodium triacetoxyborohydride (50 mg, 0.23 mmol), and triethylamine (35 mg, 0.35 mmol) in dichloromethane (10 mL) was stirred at room temperature overnight. The reaction mixture was passed through a silica gel pad. The filtrate was concentrated and purified by HPLC to give the cis- and trans-isomers. MS (M+H) 596.2 for both isomers.

reactant | (3S)-1-({1-[6-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}carbonyl)pyrrolidin-3-amine | 0.1 mmol, 40 mg | FC(C1=CC=CC(=N1)N1CCC(CC1)C(=O)N1C[C@H](CC1)N)(F)F | C16H21F3N4O
reactant | 4-hydroxy-4-(5-pyrimidin-2-ylpyridin-2-yl)cyclohexanone | 0.18 mmol, 47 mg | OC1(CCC(CC1)=O)C1=NC=C(C=C1)C1=NC=CC=N1 | C15H15N3O2
reactant | sodium triacetoxyborohydride | 0.23 mmol, 50 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 0.35 mmol, 35 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(5-Pyrimidin-2-ylpyridin-2-yl)-4-{[(3S)-1-({1-[6-(trifluoromethyl)pyridin-2-yl]piperidin-4-yl}carbonyl)pyrrolidin-3-yl]amino}cyclohexanol | N1=C(N=CC=C1)C=1C=CC(=NC1)C1(CCC(CC1)N[C@@H]1CN(CC1)C(=O)C1CCN(CC1)C1=NC(=CC=C1)C(F)(F)F)O | C31H36F3N7O2
